US05312914
2(S)-amino-3(S)-methoxycarbonyl-4(R)-pentanolide hydrochloride
19.56 g of 2(S)-amino-3(S)-carboxy-4(R)-pentanolide hydrochloride are suspended in methanol, the whole is gassed with hydrogen chloride for 15 minutes and stirred overnight at room temperature. The solvent is distilled off in a rotary evaporator and the residue is crystallised from chloroform: [α]D20 =-27.3° (1% in DMSO), m.p. 170°-172° C.

reactant | 2(S)-amino-3(S)-carboxy-4(R)-pentanolide hydrochloride | 19.56 g | Cl.N[C@@H]1C(=O)O[C@@H]([C@H]1C(=O)O)C
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | 2(S)-amino-3(S)-methoxycarbonyl-4(R)-pentanolide hydrochloride | Cl.N[C@@H]1C(=O)O[C@@H]([C@H]1C(=O)OC)C | InChI=1S/C7H11NO4.ClH/c1-3-4(6(9)11-2)5(8)7(10)12-3;/h3-5H,8H2,1-2H3;1H/t3-,4-,5+;/m1./s1
